US04801705
(A) 3,4-Dihydroxybenzoic acid, 1-methylhydrazide
0.11 g (0.05 mol) of 3,4-dihydroxybenzoic acid, ethyl ester and 106 ml of methylhydrazine (2 mol) were refluxed for 3 days. The reaction mixture was evaporated in vacuo and the oily residue treated with ethanol and evaporated again. This was repeated once more. After retreatment with ethanol, 3,4-dihydroxybenzoic acid, 1-methylhydrazide began to crystallize. The crude product was removed by filtration and recrystallized from ethanol; yield: 3.8 g, melting point 202°-205° C.

reactant | 3,4-dihydroxybenzoic acid, ethyl ester | 0.05 mol, 0.11 g | OC=1C=C(C(=O)OCC)C=CC1O | C9H10O4
reactant | methylhydrazine | 2 mol, 106 ml | CNN | CH6N2
product | 3,4-Dihydroxybenzoic acid, 1-methylhydrazide | CN(N)C(C1=CC(=C(C=C1)O)O)=O | C8H10N2O3
